US08067426B2
Intermediate 40: 2-{[(1S)-1-Methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Sodium tert-butoxide (3.24 g, 33.7 mmol) was added portionwise with stirring to (2S)-2-butanol (10 g, 135 mmol). 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2 g, 8.43 mmol) was added to the resulting suspension and the mixture heated to 50° C. for 6 hours when LCMS showed complete reaction. After cooling the mixture was diluted with ethyl acetate (100 ml), and washed with water (50 ml) and the aqueous layer extracted again with ethyl acetate (50 ml). The combined organic extracts were washed with brine, dried using a hydrophobic frit and evaporated in vacuo (at 62° C. to remove the excess alcohol). The residue (2.52 g) was dissolved in dichloromethane and purified on an aminopropyl cartridge (110 g) using a Flashmaster II apparatus and eluting with a 0-100% ethyl acetate in cyclohexane gradient over 60 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a white solid (1.935 g).

reactant | Sodium tert-butoxide | 33.7 mmol, 3.24 g | CC(C)([O-])C.[Na+]
reactant | (2S)-2-butanol | 135 mmol, 10 g | C[C@@H](CC)O | C4H10O
reactant | 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 8.43 mmol, 2 g | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[(1S)-1-Methylpropyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.935 g | C[C@@H](CC)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H21N5O2
